US06706751B2
106 mg (0.25 mmol) 5-(4-Bromo-butoxy)-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester in 2 ml DMF were treated with 71 mg (1 mmol) N-allylmethylamine at 50° C. for 2 h. The mixture was concentrated and purified by column chromatography on silica gel with CH2Cl2/MeOH 19:1 to give 68 mg (66%) 5-[4-(Allyl-methyl-amino)-butoxy]-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester as colorless solid, MS: 415 (M+, 1Cl).

reactant | 5-(4-Bromo-butoxy)-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester | 0.25 mmol, 106 mg | ClC1=CC=C(C=C1)OC(=O)N1CCC2=CC(=CC=C12)OCCCCBr | C19H19BrClNO3
reactant | N-allylmethylamine | 1 mmol, 71 mg | C(C=C)CN | C4H9N
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-[4-(Allyl-methyl-amino)-butoxy]-2,3-dihydro-indole-1-carboxylic acid 4-chloro-phenyl ester | 68 mg, 66% | ClC1=CC=C(C=C1)OC(=O)N1CCC2=CC(=CC=C12)OCCCCN(C)CC=C | C23H27ClN2O3
